US04248746
Finely divided vinyl acetate-ethyl acetate copolymer is prepared exactly as described in Example 1 except that in place of the vinyl acetate there is used an 85:15 mixture of vinyl acetate and ethyl acrylate. The resulting dispersion contains 51.4% solids, and has a particle size of 0.45 micron. The polymer has a reduced specific viscosity of 1.32 determined in chloroform solution at 25° C., which indicates a molecular weight above 100,000, and has a second order transition temperature of 19° C.

reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | vinyl acetate ethyl acetate | C(C)(=O)OC=C.C(C)(=O)OCC | InChI=1S/C4H8O2.C4H6O2/c2*1-3-6-4(2)5/h3H2,1-2H3;3H,1H2,2H3
